US07279481B2
1,1-dimethylethyl 4-(6-fluoro-2-methyl-5-quinolinyl)-1-piperazinecarboxylate
A mixture of 5-bromo6-fluoro-2-methylquinoline (Chem. Pharm. Bull:, 1989, 37(8), 2103-8, 0.285 g), 1,1-dimethylethyl 1-piperazinecarboxylate (0.265 g, 1.2 equiv.), Pd(OA)2 (15 mol %, 0.04 g), bis(diphenylphosphino)-1,1′-binaphthyl (BINAP, 30 mol %, 0.221 g), cesium carbonate (1.5 equiv. 0.580 g) and toluene (3.5 mL) were stirred at 120° C. for 20 h in a sealed tube. The mixture was cooled to room temperature and partitioned between ethyl acetate and brine. The organic layer was dried over sodium sulfate, filtered and concentrated. This crude product was purified by flash chromatography [SiO2; DCM-MeOH (99:1)→(90:10)] to afford the title compound as colourless solid (0.270 g, 65% yield).

reactant | 5-bromo6-fluoro-2-methylquinoline | 0.285 g | BrC1=C2C=CC(=NC2=CC=C1F)C | C10H7BrFN
reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | 0.265 g, 1.2 equiv. | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | bis(diphenylphosphino)-1,1′-binaphthyl | 0.221 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C=1C(=C(C2=CC=CC=C2C1)C1=CC=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 0.580 g, 1.5 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 3.5 mL | C1(=CC=CC=C1)C | C7H8
product | 1,1-dimethylethyl 4-(6-fluoro-2-methyl-5-quinolinyl)-1-piperazinecarboxylate | 0.270 g, 65% yield | FC=1C(=C2C=CC(=NC2=CC1)C)N1CCN(CC1)C(=O)OC(C)(C)C | C19H24FN3O2
